US04474700
Tetramethylammonium-3-azidotetrafluoropropionate
Trimethylamine (10.6 g, 0.18 mole) was distilled into a solution of 37.0 g (0.184 mole) of methyl 3-azidotetrafluoropropionate, prepared as in Example 9, in 100 ml of ether. Precipitation of product was accompanied by a small exotherm. The reaction was determined by gas chromatography to be nearly complete after 4 hr. The mixture was stirred overnight, then evaporated under vacuum until dry. The residue was 31.8 g (68%) of tetramethylammonium-3-azidotetrafluoropropionate, mp 144°-145° (dec.). IR (nujol): 2170 (N3), 1680 (broad, CO21-), and 1250-1100 cm-1 (CF), NMR (DMSO-d6): H 3,25 ppm (s, CH3); 19F -90.8 (t, JFF 6.2 Hz, 2F, CF2N3) and -115.8 ppm (t, JFF 6.2 Hz, 2F, CF2C=O).

reactant | Trimethylamine | 0.18 mole, 10.6 g | CN(C)C | C3H9N
reactant | methyl 3-azidotetrafluoropropionate | 0.184 mole, 37.0 g | N(=[N+]=[N-])C(C(C(=O)OC)(F)F)(F)F | C4H3F4N3O2
solvent | ether | 100 ml | CCOCC | C4H10O
product | Tetramethylammonium 3-azidotetrafluoropropionate | C[N+](C)(C)C.N(=[N+]=[N-])C(C(C(=O)[O-])(F)F)(F)F | InChI=1S/C4H12N.C3HF4N3O2/c1-5(2,3)4;4-2(5,1(11)12)3(6,7)9-10-8/h1-4H3;(H,11,12)/q+1;/p-1
